US07645753B2
2-Chloro-benzooxazole-7-carboxylic acid methyl ester
To 2-mercapto-benzooxazole-7-carboxylic acid methyl ester (1.0 g, 4.78 mmol, 1.0 equiv) was added thionyl chloride (8.0 g, 4.9 mL, 67.6 mmol, 14.0 equiv) and anhydrous DMF (0.4 g, 0.4 mL, 5.19 mmol, 1.1 equiv) and the reaction mixture heated to reflux for 15 min. The solvent was removed under reduced pressure, the crude oil azeotroped twice with xylene and the crude material purified with column chromatography on silica eluting with ethyl acetate/hexane (1:1) to afford 0.81 g (81%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 4.03 (s, 3H), 7.44 (t, J=7.9 Hz, 1H), 7.87 (dd, J=7.9 Hz, J=1.1 Hz, 1H), 8.01 (dd, J=7.9 Hz, J=1.1 Hz, 1H). 13C NMR (75 MHz, CDCl3): δ 52.46, 115.07, 124.36, 124.82, 127.54, 142.39, 150.35, 152.24, 163.88. MS (ISP): 212.0 [M+H]+.

reactant | 2-mercapto-benzooxazole-7-carboxylic acid methyl ester | 4.78 mmol, 1.0 g, 1.0 equiv | COC(=O)C1=CC=CC=2N=C(OC21)S | C9H7NO3S
reactant | thionyl chloride | 67.6 mmol, 4.9 mL, 8.0 g, 14.0 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 5.19 mmol, 0.4 mL, 0.4 g, 1.1 equiv | CN(C)C=O | C3H7NO
product | 2-Chloro-benzooxazole-7-carboxylic acid methyl ester | 0.81 g, 81% | COC(=O)C1=CC=CC=2N=C(OC21)Cl | C9H6ClNO3
